US08183241B2
Raney Ni (1.5 g) is added to a mixture of commercially available nitrogen-containing 4-methyl-3-nitropyridin-2-amine x220 (4.0 g, 26.1 mmol) in methanol (150 ml), and the obtained reaction mixture is hydrogenated in the Parr apparatus at the hydrogen pressure 3 atm until the total conversion of compound x220 is attained for approximately 1.5-2 h. The catalyst is separated by filtration, the filtrate is washed with methanol, and the alcohol solution is evaporated to dryness. The residue is dissolved in sulfolane (10 ml), then PhC(OMe)3 (5.7 g, 1.2 eq, 31.3 mmol) and PTSA (0.3 g) are added, and an air reflux condenser is mounted. The apparatus is argon-blown, and the obtained reaction mixture is heated to 165° C. under vigorous stirring for 10 h. Water (100 ml), saturated aqueous NaHCO3 (5 ml), and hexane (50 ml) are added to the reaction mixture. The obtained suspension is stirred for 5 min, and the residue is separated by filtration. The residue is washed with water (50 ml) and hexane (100 ml), and vacuum-dried over P2O5 to a constant weight at 45° C. to give 7-methyl-2-phenyl-3H-imidazo[4,5-b]pyridine x221 (2.2 g).

reactant | 4-methyl-3-nitropyridin-2-amine | CC1=C(C(=NC=C1)N)[N+](=O)[O-] | C6H7N3O2
reactant | hydrogen | [H][H] | H2
reactant | PhC(OMe)3 | 31.3 mmol, 5.7 g, 1.2 eq | C1(=CC=CC=C1)C(OC)(OC)OC | C10H14O3
reactant | PTSA | 0.3 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | NaHCO3 | 5 ml | C(=O)(O)[O-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
catalyst | Ni | 1.5 g | [Ni] | Ni
solvent | hexane | 50 ml | CCCCCC | C6H14
solvent | Water | 100 ml | O | H2O
product | 7-methyl-2-phenyl-3H-imidazo[4,5-b]pyridine | 2.2 g, Yield: 40% | CC1=C2C(=NC=C1)NC(=N2)C2=CC=CC=C2 | C13H11N3
